US06747023B1
4-[(6-chloronaphthalen-2-yl)sulfonyl]-2-[(N-isopropyl)carbamoyl]-1-[(6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]piperazine hydrochloride
Starting materials: lithium 6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine-2-carboxylate, 1-[(6-chloronaphthalen-2-yl)sulfonyl]-3-[(N-isopropyl)carbamoyl]piperazine hydrochloride

reactant | lithium 6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine-2-carboxylate | CC1CC2=C(CN1)SC(=N2)C(=O)[O-].[Li+]
reactant | 1-[(6-chloronaphthalen-2-yl)sulfonyl]-3-[(N-isopropyl)carbamoyl]piperazine hydrochloride | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(NCC1)C(NC(C)C)=O
product | 4-[(6-chloronaphthalen-2-yl)sulfonyl]-2-[(N-isopropyl)carbamoyl]-1-[(6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]piperazine hydrochloride | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(CC1)C(=O)C=1SC=2CNC(CC2N1)C)C(NC(C)C)=O | InChI=1S/C26H30ClN5O4S2.ClH/c1-15(2)29-24(33)22-14-31(38(35,36)20-7-5-17-11-19(27)6-4-18(17)12-20)8-9-32(22)26(34)25-30-21-10-16(3)28-13-23(21)37-25;/h4-7,11-12,15-16,22,28H,8-10,13-14H2,1-3H3,(H,29,33);1H
